US06514968B1
Preparation 17 9-Benzyl-8-fluoro-9H-carbazol-4-ol
Pyridinium bromide perbromide (2.9945 g, 0.0094 mol) is added to a mixture of 9-benzyl-8-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one (2.1145 g, 0.0072 mol) in THF (22 mL) and DMF (16 mL) and the mixture is heated to 75° C. After stirring for 5.5 h, THF is removed under reduced pressure and the residue is partitioned between ethyl acetate and brine. The combined organic layers are washed with dilute sodium thiosulfate/brine and the aqueous layer is backwashed with ethyl acetate. The combined organic layers are dried over magnesium sulfate and concentrated under reduced pressure to give a residue. The residue is recrystallized from ethyl acetate/heptane and the resulting solids are combined with lithium bromide (1.1338 g, 0.013 mol), lithium carbonate (0.8831 g, 0.012 mol), and DMF (24 mL) and heated to 120° C. After 1.5 h, the mixture is partitioned between ethyl acetate and brine. The combined organic layers are washed with dilute brine and then dried over sodium sulfate and concentrated to an oil. The oil is chromatographed on silica gel (150 mL) using dichloromethane (100) to give 1.0857 g (52%) of the title compound; mp 155-156° C.; MS (ESI−) for C19H14FNO m/z 290.1 (M−H)−; IR (drift) 3524, 1581, 1498, 1456, 1432, 1343, 1318, 1272, 1239, 1134, 966, 790, 731, 714, 698 cm−1; 1H NMR (CDCl3) δ5.33, 5.69, 6.59, 6.98, 7.14, 7.25, 8.10. Anal. Calcd for C19H14FNO: C, 78.33; H, 4.84; N, 4.81. Found: C, 77.67; H, 4.90; N, 4.71.

reactant | Pyridinium bromide perbromide | 0.0094 mol, 2.9945 g | C1=CC=[NH+]C=C1.Br[Br-]Br
reactant | 9-benzyl-8-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 0.0072 mol, 2.1145 g | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(CCCC12)=O)F | C19H16FNO
reactant | lithium bromide | 0.013 mol, 1.1338 g | [Br-].[Li+]
reactant | lithium carbonate | 0.012 mol, 0.8831 g | C([O-])([O-])=O.[Li+].[Li+]
solvent | THF | 22 mL | C1CCOC1 | C4H8O
solvent | DMF | 16 mL | CN(C)C=O | C3H7NO
solvent | DMF | 24 mL | CN(C)C=O | C3H7NO
product | 9-Benzyl-8-fluoro-9H-carbazol-4-ol | 1.0857 g, 52% | C(C1=CC=CC=C1)N1C2=C(C=CC=C2C=2C(=CC=CC12)O)F | C19H14FNO
